US04452809
Trans-1-ethyl-4-[2-(2-propenyl)phenoxy]-3-pyrrolidinol ethylcarbamate (ester)
A mixture of 7.3 g. of trans 4-(2-allylphenoxy)-1-ethyl-3-pyrrolidinol and 2.5 g. of ethylisocyanate in 30 ml. of benzene was stirred for 48 hr. The benzene was replaced by petroleum ether and the solution chilled. The yield of precipitate melting at 53-6° C. was 78%.

reactant | trans 4-(2-allylphenoxy)-1-ethyl-3-pyrrolidinol | C(C=C)C1=C(O[C@H]2[C@@H](CN(C2)CC)O)C=CC=C1 | C15H21NO2
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Trans-1-ethyl-4-[2-(2-propenyl)phenoxy]-3-pyrrolidinol ethylcarbamate | C(C)NC(=O)O[C@@H]1CN(C[C@H]1OC1=C(C=CC=C1)CC=C)CC | C18H26N2O3
